US09403832B2
5.6.13. Synthesis of 4-[3-(2-Methoxy-pyridin-3-yl)-pyrazolo[1,5-a]pyrimidin-5-yl]-piperazine-1-carboxylic acid isopropyl ester
Prepared similarly to the preparation of example 5.6.9 from 4-(3-bromo-pyrazolo[1,5-a]pyrimidin-5-yl)-piperazine-1-carboxylic acid isopropyl ester (338.7 mg, 0.9 mmol) and 2-methoxy-3-pyridineboronic acid [163105-90-6] (169.4 mg, 1.1 mmol) to afford 76.0 mg of yellow powder as a free base, mp. 131-132° C. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.22 (d, J=6.06 Hz, 6 H) 3.47-3.56 (m, 4 H) 3.71-3.80 (m, 4 H) 4.00 (s, 3 H) 4.82 (spt, J=6.23 Hz, 1 H) 6.81 (d, J=8.08 Hz, 1 H) 7.08 (dd, J=7.45, 4.93 Hz, 1 H) 7.98 (dd, J=4.93, 1.89 Hz, 1 H) 8.51 (s, 1 H) 8.76 (d, J=7.83 Hz, 1 H) 8.82 (dd, J=7.58, 2.02 Hz, 1 H). 13C NMR (100 MHz, DMSO-d6) δ ppm 21.95, 42.85, 44.06, 53.10, 68.16, 97.21, 98.90, 116.40, 117.17, 134.55, 136.43, 141.99, 144.65, 144.71, 154.26, 155.46, 158.89. LRMS (ESI) m/z 397.1 [(M+H)]+, calc'd for C20H24N6O3: 396.45.

reactant | 4-(3-bromo-pyrazolo[1,5-a]pyrimidin-5-yl)-piperazine-1-carboxylic acid isopropyl ester | 0.9 mmol, 338.7 mg | C(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C=C1)N=CC2Br | C14H18BrN5O2
reactant | 2-methoxy-3-pyridineboronic acid | 1.1 mmol, 169.4 mg | COC1=NC=CC=C1B(O)O | C6H8BNO3
product | 4-[3-(2-Methoxy-pyridin-3-yl)-pyrazolo[1,5-a]pyrimidin-5-yl]-piperazine-1-carboxylic acid isopropyl ester | 76.0 mg | C(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C=C1)N=CC2C=2C(=NC=CC2)OC | C20H24N6O3
